US06794403B2
7-(Bromomethyl)-2-(4-hydroxyphenyl)-1,3-benzoxazol-5-ol
The title compound was prepared according to the procedure of Example 20, step e (Route b), from 5-methoxy-7-(hydroxymethyl)-2-(4-methoxyphenyl)-1,3-benzoxazole with prolonged stirring in the presence of boron tribromide, and was obtained as a light brown solid, m.p. 250-260° C. (dec); MS m/e 321 (M+H)+.

reactant | 5-methoxy-7-(hydroxymethyl)-2-(4-methoxyphenyl)-1,3-benzoxazole | COC=1C=C(C2=C(N=C(O2)C2=CC=C(C=C2)OC)C1)CO | C16H15NO4
reactant | boron tribromide | B(Br)(Br)Br | BBr3
product | 7-(Bromomethyl)-2-(4-hydroxyphenyl)-1,3-benzoxazol-5-ol | BrCC1=CC(=CC=2N=C(OC21)C2=CC=C(C=C2)O)O | C14H10BrNO3
